US05910498
1-(3-amino-4,5,6-trifluorophenyl)-7-chloro-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid
Ethyl 1-(3-amino-4,5,6-trifluorophenyl)-7-chloro-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate (600 mg) was dissolved in 30 ml of methanol, 10 ml of acetic acid, and 30 ml of dichloroethane, to which was added 100 mg of 10% palladium on carbon. Under a hydrogen atmosphere, the solution was stirred overnight at room temperature. The catalyst was removed by a membrane filter and the filtrate was concentrated in vacua. To the residue were added 4 ml of acetic acid and 1 ml of hydrochloric acid. The solution was heated at 100° C. and stirred overnight. The reaction solution was concentrated in vacua whereupon diethyl ether was added to the residue. The solid was collected by filtration and washed with diethyl ether to give 160 mg of the title compound.

reactant | Ethyl 1-(3-amino-4,5,6-trifluorophenyl)-7-chloro-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 600 mg | NC=1C=C(C(=C(C1F)F)F)N1C=C(C(C2=CC(=C(N=C12)Cl)F)=O)C(=O)OCC | C17H10ClF4N3O3
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | dichloroethane | 30 ml | ClC(C)Cl | C2H4Cl2
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | 1-(3-amino-4,5,6-trifluorophenyl)-7-chloro-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 160 mg | NC=1C=C(C(=C(C1F)F)F)N1C=C(C(C2=CC(=C(N=C12)Cl)F)=O)C(=O)O | C15H6ClF4N3O3
